US09102625B2
(S)-4-(1-acetylpiperidin-3-ylamino)-6-(4-methoxyphenylamino)nicotinamide
(S)-4-(1-acetylpiperidin-3-ylamino)-6-chloronicotinamide (50 mg, 0.17 mmol), p-anisidine (31 mg, 0.26 mmol), Cs2CO3 (111 mg, 0.34 mmol), BINAP (16 mg, 0.026 mmol), and Pd(OAc)2 (4 mg, 0.017 mmol) and degassed dioxane (4 mL) were heated to 100° C. under Argon overnight. The following morning the mixture was determined to be complete by UPLC. The reaction was diluted with water, acetonitrile, and TFA, then purified by HPLC affording 4 mg of the desired product after lyophilization. MS found for C20H25N5O3 as (M+H)+ 384.3. UV: λ=202, 257 nm. 1H NMR: (CD3OD) (mixture of rotamers) δ 8.12 (s, 0.4H), 8.06 (s, 0.6H), 7.24 (dd, 2H), 7.06 (dd, 2H), 5.98 (s, 0.7H), 5.89 (s, 0.3H), 3.84 (s, 3H), 3.40-3.68 (m, 5H), 2.13 (s, 2H), 2.03 (m, 1H), 1.98 (s, 1H), 1.52-1.93 (m, 3H).

reactant | (S)-4-(1-acetylpiperidin-3-ylamino)-6-chloronicotinamide | 0.17 mmol, 50 mg | C(C)(=O)N1C[C@H](CCC1)NC1=CC(=NC=C1C(=O)N)Cl | C13H17ClN4O2
reactant | p-anisidine | 0.26 mmol, 31 mg | COC1=CC=C(C=C1)N | C7H9NO
reactant | Cs2CO3 | 0.34 mmol, 111 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | BINAP | 0.026 mmol, 16 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | Pd(OAc)2 | 0.017 mmol, 4 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | (S)-4-(1-acetylpiperidin-3-ylamino)-6-(4-methoxyphenylamino)nicotinamide | 4 mg | C(C)(=O)N1C[C@H](CCC1)NC1=CC(=NC=C1C(=O)N)NC1=CC=C(C=C1)OC | C20H25N5O3
